US04927453
Ethyl 2-Amino-6-methylbenzoate
A reaction mixture of 185 g of ethyl 6-methyl-2-nitrobenzoate and 176 g of powdered iron in 343 mL of glacial acetic acid and 2200 mL of ethanol was heated at reflux for 5 hours. The reaction mixture was allowed to cool, diluted with excess water and extracted with ethyl acetate. The organic layer was dried over sodium sulfate, filtered and concentrated to an orange oil 148.3 g.

reactant | ethyl 6-methyl-2-nitrobenzoate | 185 g | CC1=CC=CC(=C1C(=O)OCC)[N+](=O)[O-] | C10H11NO4
solvent | acetic acid | 343 mL | C(C)(=O)O | C2H4O2
solvent | ethanol | 2200 mL | C(C)O | C2H6O
solvent | water | O | H2O
catalyst | iron | 176 g | [Fe] | Fe
product | Ethyl 2-Amino-6-methylbenzoate | NC1=C(C(=O)OCC)C(=CC=C1)C | C10H13NO2
